US06130332
18.5 g (0.1 mol.) of cyanuric chloride were dissolved in 400 mL of 1,4-dioxane. The mixture solution was warmed to 50° C. While stirring, the warmed solution was dropwise added with 60.2 g (0.6 mol.) of cyclohexylamine over two hours in such a manner that the reaction temperature did not raise over 50° C. While continuing further stirring, the temperature was raised to 85° C. and 60.2 g (0.61 mol.) of cyclohexylamine by keeping the temperature. Thereafter, the temperature was again raised and the reaction was carried out at the reaction temperature of 95° C. for six hours. 230 g of water were added to the reaction solution so that the temperature did not fall less than 90° C. and then, cooled. to the room temperature while stirring. Product was separated, from the reaction solution through filtration and washed with each 150 mL of water four times. The filtered product was dried at 70° C. for six hours under vacuum to obtain 34.2 g of 2,4,6-tris(cyclohexylamino)-1,3,5-triazine (yield: 225° C.)

reactant | cyanuric chloride | 0.1 mol, 18.5 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | cyclohexylamine | 0.6 mol, 60.2 g | C1(CCCCC1)N | C6H13N
reactant | cyclohexylamine | 0.61 mol, 60.2 g | C1(CCCCC1)N | C6H13N
reactant | water | 230 g | O | H2O
solvent | 1,4-dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | 2,4,6-tris(cyclohexylamino)-1,3,5-triazine | 34.2 g | C1(CCCCC1)NC1=NC(=NC(=N1)NC1CCCCC1)NC1CCCCC1 | C21H36N6
